US08168658B2
Step A: Ethyl 5-[2-[(4-chlorophenyl)amino]-1-(4-methylpiperazin-1-yl)-2-oxoethyl]thiophene-2-carboxylate.
Ethyl 5-formylthiophene-2-carboxylate (0.50 g, 2.71 mmol) was made 2.25 M in anhydrous trifluoroethanol and to this stirring solution was added N-methylpiperazine (0.33 g, 3.26 mmol), 1-chloro-4-isocyanobenzene (0.45 g, 3.26 mmol) and acetic acid (0.20 g, 3.26 mmol). The resulting mixture was stirred at ambient temperature overnight. The reaction mixture was concentrated in vacuo then purified by MPLC to give the desired product. MS: cal'd 422, 424 (MH+), exp 422, 424 (MH+).

reactant | Ethyl 5-formylthiophene-2-carboxylate | 2.71 mmol, 0.50 g | C(=O)C1=CC=C(S1)C(=O)OCC | C8H8O3S
reactant | N-methylpiperazine | 3.26 mmol, 0.33 g | CN1CCNCC1 | C5H12N2
reactant | 1-chloro-4-isocyanobenzene | 3.26 mmol, 0.45 g | ClC1=CC=C(C=C1)[N+]#[C-] | C7H4ClN
reactant | acetic acid | 3.26 mmol, 0.20 g | C(C)(=O)O | C2H4O2
solvent | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
product | Ethyl 5-[2-[(4-chlorophenyl)amino]-1-(4-methylpiperazin-1-yl)-2-oxoethyl]thiophene-2-carboxylate | ClC1=CC=C(C=C1)NC(C(N1CCN(CC1)C)C1=CC=C(S1)C(=O)OCC)=O | C20H24ClN3O3S
